US05089507
2-(pyrrolidin-1-yl)carbonyl-5,5-dimethyl piperidine
4.2 g (23.5 mmoles) of 5,5-dimethyl pipecolic acid methyl ester hydrochloride were added to 40 ml of pyrrolidine kept at 0° C. After the addition, the solution was allowed to reach room temperature and stirring was continued overnight. The reaction mixture was evaporated in vacuo and the residue treated with 30 ml of 40% NaOH, extracted with diethyl ether, dried over sodium sulphate and evaporated in vacuo to dryness to give 3.3 g of the title compound.

reactant | 5,5-dimethyl pipecolic acid methyl ester hydrochloride | 23.5 mmoles, 4.2 g | Cl.COC(C1NCC(CC1)(C)C)=O
reactant | pyrrolidine | 40 ml | N1CCCC1 | C4H9N
product | 2-(pyrrolidin-1-yl)carbonyl-5,5-dimethyl piperidine | 3.3 g | N1(CCCC1)C(=O)C1NCC(CC1)(C)C | C12H22N2O
